datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)[H])CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CC)[H])[O-:10])CC 21=20;20,10=10"
"[O:10]([Na])C(CC)C(C)C([C:20](OC)=[O:21])O>>[O-:21][C:20]1(OC)[O+:10]([Na])C(CC)C(C)C1O 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21]C>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C)[H])[H] 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21][H])([S]C)[O]C.[Cl-]>>[Cl-].C[S:10][H].[H][O+:21]=[C:20]([S]C)[O]C 21=20;20,10=10"
"[H][NH+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C([H])[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C([H])[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)C1=CC=CC=C1)CCCCCC>>CN([C:20]1(OC(C(C([O:21]1)C)CC)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"[O-:21][C:20]2([O:10]C(C=CC=C3)=C3C2[H])OCC>>[O-:10]C1=C(C([H])[C:20](OCC)=[O:21])C=CC=C1 21=20;20,10=10"
"[OH:21][CH:20]2(OCC)C(C3=C(C([OH+:10]2)C)C=CC=C3)[H]>>[OH:10]C(C1=C(C([CH:20](OCC)=[OH+:21])[H])C=CC=C1)C 21=20;20,10=10"
"[O-:21][C:20]1(OC)C(C)C(O)C([H])C(C)[NH+:10]1([H])>>[NH:10]([H])C(C)C([H])C(O)C(C)[C:20](OC)=[O:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"CC[S+:10]([H])[C:20]1([O:21]C)[O]C(C)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[S]2.CC[S:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C([H])C([H])[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"[O-:21][C:20]1(C)[O:10]C([H])C(O)C1[H]>>[O-:10]C([H])C(O)C([C:20](C)=[O:21])[H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1)CCCCCC>>CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)CCCCCC.[O-:21]C 10=20;20,21=21"
"C[NH:10][H].C[NH+:21]=[C:20]([NH]C)[NH]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([NH]C)[NH]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)[H])C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S]C(C)C(C8=CC=CC=C8)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C(CC)[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O][CH]([H])C(C)[CH](CC)[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](CC)[NH]1 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"[H][O:10]C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][NH+:10](C(C)C([H])C([H])[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C([H])[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OCC)CCCCCC)[H]>>C(C([O-:21])C)(C(O[C:20](=[O:10])OCC)CCCCCC)[H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1 10=20;20,21=21"
